US04560691
A mixture containing 10.68 g of 5-(4-nitrophenyl)-1,6-naphthyridin-2(1H)-one, 1 g of platinum oxide and 300 ml of acetic acid was catalytically hydrogenated in a Paar hydrogenator at room temperature over a period of about 1 hour. The catalyst was filtered off and the filtrate was concentrated on a rotary evaporator. The residue was slurried in boiling methanol, the mixture filtered, and the collected solid washed with methanol and dried in a vacuum oven at about 90° C. The solid was then recrystallized using 100 ml of boiling dimethylformamide and decolorizing charcoal, filtering the hot mixture, and concentrating the filtrate on a rotary evaporator. The remaining solid was slurried with methanol, the mixture filtered and the collected solid dried in a vacuum oven at 90° C. to yield 5.2 g of 5-(4-aminophenyl)-1,6-naphthyridin-2(1H)-one, m.p. 309°-312° C.

reactant | 5-(4-nitrophenyl)-1,6-naphthyridin-2(1H)-one | 10.68 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=C2C=CC(NC2=CC=N1)=O | C14H9N3O3
catalyst | platinum oxide | 1 g | [Pt]=O
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 5-(4-aminophenyl)-1,6-naphthyridin-2(1H)-one | 5.2 g | NC1=CC=C(C=C1)C1=C2C=CC(NC2=CC=N1)=O | C14H11N3O
